US08003649B2
(R)-1-(1-(4-Bromophenyl)ethyl)-4-tosylpiperazine (4.44 g, 10.49 mmol) and 4-hydroxybenzoic acid (4.35 g, 31.46 mmol) in hydrobromic acid (33% in AcOH, 40 mL,) were stirred at room temperature for 48 hours. Water (40 mL) was then added to the dark mixture and stirring continued for a further 2 hours to give a beige solid, which was filtered off and washed with water (10 mL). The combined filtrate and washings were washed with toluene (3×50 mL) then cooled to 5° C. and basified to pH>10 with 40% NaOH. The resulting mixture was extracted with tert butyl methyl ether (2×50 mL) and the combined extracts washed with saturated brine, dried over MgSO4 and evaporated to give (R)-1-[1-(4-bromophenyl)ethyl]piperazine (2.69 g, 95%) as an orange, viscous oil.

reactant | (R)-1-(1-(4-Bromophenyl)ethyl)-4-tosylpiperazine | 10.49 mmol, 4.44 g | BrC1=CC=C(C=C1)[C@@H](C)N1CCN(CC1)S(=O)(=O)C1=CC=C(C)C=C1 | C19H23BrN2O2S
reactant | 4-hydroxybenzoic acid | 31.46 mmol, 4.35 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | Water | 40 mL | O | H2O
solvent | hydrobromic acid | 40 mL | Br | BrH
product | (R)-1-[1-(4-bromophenyl)ethyl]piperazine | 2.69 g, 95% | BrC1=CC=C(C=C1)[C@@H](C)N1CCNCC1 | C12H17BrN2
